US05733913
6-Pyridin-4-yl-pyrido[2,3-d]pyrimidine-2,7-diamine
To cooled (0° C.) 2-ethoxyethanol (13 mL) was added portionwise 0.30 g of sodium hydride (60% in mineral oil), and the suspension was stirred for 10 minutes. To this suspension was added 1.06 g of 4-pyridylaceto-nitrile hydrochloride, and the mixture was stirred at room temperature for 30 minutes. The neutralized solution of 4-pyridylacetonitrile in 2-ethoxyethanol was added to a reaction mixture containing sodium 2-ethoxyethoxide (prepared from 0.11 g of sodium hydride and 4.76 mL of 2-ethoxyethanol) and 0.9 g of 2,4-diamino-5-pyrimidinecarboxaldehyde. The resulting mixture was heated at reflux for 2 hours, cooled, and the insoluble product washed with diethylether and ethyl acetate to afford the title compound; mp >340° C.; MS(CI).

reactant | sodium hydride | 0.30 g | [H-].[Na+]
reactant | 4-pyridylaceto-nitrile hydrochloride | 1.06 g | Cl.N1=CC=C(C=C1)CC#N
reactant | 4-pyridylacetonitrile | N1=CC=C(C=C1)CC#N | C7H6N2
reactant | sodium 2-ethoxyethoxide | 4.76 mL, 0.11 g | C(C)OCC[O-].[Na+]
reactant | 2,4-diamino-5-pyrimidinecarboxaldehyde | 0.9 g | NC1=NC=C(C(=N1)N)C=O | C5H6N4O
solvent | 2-ethoxyethanol | C(C)OCCO | C4H10O2
solvent | 2-ethoxyethanol | 13 mL | C(C)OCCO | C4H10O2
product | 6-Pyridin-4-yl-pyrido[2,3-d]pyrimidine-2,7-diamine | N1=CC=C(C=C1)C1=CC2=C(N=C(N=C2)N)N=C1N | C12H10N6
